US04632925
To a stirred solution of 4-picoline (32,5 g) in tetrahydrofuran (140 ml), was added dropwise under argon a solution of phenyl lithium in 7:3 cyclohexane-ether (1.9M; 184 ml) at such a rate that the reaction temperature could be maintained at 10°-20° by means of an external cooling bath. After the addition was completed, the reaction was cooled to -5°, and then a solution of 3,3'-dimethoxybenzophenone (77.4 g) in dry tetrahydrofuran (140 ml) was added so that the reaction temperature did not exceed 0°. The cooling bath was removed and the mixture was stirred at room temperature for two hours, whereupon water (140 ml) was added slowly followed by tetrahydrofuran (140 ml). The layers were separated, and after sodium chloride (~30 g) was added to the aqueous phase, it was reextracted with tetrahydrofuran (2×100 ml). The combined organic layers were washed with brine (50 ml), then were dried (over sodium sulfate) and evaporated. The crude product was triturated with hot hexane (2×300 ml) and the resulting solid was filtered to give 93.5 g of alpha,alpha-bis(3-methoxyphenyl)-4-pyridineethanol, mp 134°-135°.

reactant | 4-picoline | 32,5 g | N1=CC=C(C=C1)C | C6H7N
reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | 3,3'-dimethoxybenzophenone | 77.4 g | COC=1C=C(C(=O)C2=CC(=CC=C2)OC)C=CC1 | C15H14O3
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | alpha,alpha-bis(3-methoxyphenyl)-4-pyridineethanol | 93.5 g | COC=1C=C(C=CC1)C(CC1=CC=NC=C1)(O)C1=CC(=CC=C1)OC | C21H21NO3
